US07307095B2
2-(S)-(Benzothiazol-2-ylamino)-3-cyclohexyl-N-[2-(4-methoxy-phenylamino)-ethyl]-propionamide.
The title compound was prepared from 2-chlorobenzothiazole, L-cyclohexylalanine and N1-(4-methoxy-phenyl)-ethane-1,2-diamine.-2HCl using the procedure analogous to that described in example 2. HPLC-MS calcd. for C25H32N4O2S (M+H+) 453.22, found 453.5.

reactant | 2-chlorobenzothiazole | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | L-cyclohexylalanine | C1CCC(CC1)C[C@@H](C(=O)O)N | C9H17NO2
reactant | N1-(4-methoxy-phenyl)-ethane-1,2-diamine | COC1=CC=C(C=C1)NCCN | C9H14N2O
product | 2-(S)-(Benzothiazol-2-ylamino)-3-cyclohexyl-N-[2-(4-methoxy-phenylamino)-ethyl]-propionamide | S1C(=NC2=C1C=CC=C2)N[C@H](C(=O)NCCNC2=CC=C(C=C2)OC)CC2CCCCC2 | C25H32N4O2S
